* Z:\mnt\spice-netlists\LTM4647_DC2141A.asc
V1 IN 0 12
C1 N006 0 100p
C2 OUT 0 100µ x3
R1 N005 0 90.9K
R2 N003 0 47.5K
C3 IN 0 150µ
C4 IN 0 22µ x2
R3 N007 N002 100K
XU1 IN N001 0 OUT N006 N002 OUT N005 NC_01 0 N004 N004 MP_02 N007 NC_03 NC_04 N002 MP_05 MP_06 MP_07 0 MP_08 MP_09 MP_10 MP_11 MP_12 MP_13 MP_14 MP_15 NC_16 N003 0 NC_17 N002 LTM4647
C5 OUT N005 120p
C6 N002 0 4.7µ
R4 N001 IN 2.2
C7 N001 0 1µ
Rload OUT 0 33m
C8 OUT 0 330µ x2
.tran 1m startup
* LTM4647 - 30A DC/DC Step-Down ?Module Regulator\nSingle Output, High Current, Buck Regulator\nInput: 6V to 15V     Outputs: 1.0V @ 30A, Fsw = 600kHz
* Notes:\n  A smaller TRACK/SS capacitor is being used to reduce simulation time. Typical value should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.lib LTM4647.sub
.backanno
.end
