* Z:\mnt\spice-netlists\LTM4675_DC2053A.asc
C1 IN 0 10µ x4
V1 IN 0 12
R1 N001 N002 10K
R2 N001 N003 10K
C2 OUT1 0 100µ x2
C3 OUT1 0 470µ
C4 OUT2 0 470µ
C5 OUT2 0 100µ x2
R3 N009 N001 10K
R4 N007 0 6.34K
Rload1 OUT1 0 0.222
Rload2 OUT2 0 0.4
I1 OUT1 0 PWL(1.4m 0 1.401m 4.5 1.6m 4.5 1.601m 0)
I2 OUT2 0 PWL(1.4m 0 1.401m 4.5 1.6m 4.5 1.601m 0)
XU1 OUT1 0 MP_01 MP_02 N008 MP_03 MP_04 N009 IN MP_05 OUT1 MP_06 MP_07 N003 N002 N008 NC_08 NC_09 N007 NC_10 0 NC_11 N006 IN N001 N006 OUT2 MP_12 N004 OUT2 MP_13 MP_14 NC_15 0 IN NC_16 NC_17 NC_18 N005 MP_19 0 LTM4675 VIN_ON=5.5 VIN_OFF=5 Vout_0=1 Vout_1=1.8 Ilim0_range=1 Ilim1_range=1 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m Freq=500K PHs_0=0 PHs_1=180 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
.tran 2m startup
* Please read the following notes carefully, since the model presents different user interface than the real part does.\n(1) All PMBus communication and memory address related functions and pins are not modeled. \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the simulation is stopped and restarted. This is different from the operation of the part, which will respond to the commanded changes while running. \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time base for all time related parameters.\n(4) The following parameters can be defined, by right-clicking the symbol of LTC3880. Different nomenclature from the datasheet is adopted here. If any value of these parameters are set beyond the scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, 425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. Certain combinations are restricted as in datasheet. FREQ_CFG pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0 for 4.096V (CH0) and 5.5V (CH1); value 1 for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0 for low 50mV, and 1 for high 75mV; \n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, 0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for Burst, 2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults: 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;
* LTM4675 - Dual 9A or Single 18A µModule Regulator with Digital Power System Management\nDual 9A µModule Buck Regulator with Digital Interface for Control & Monitoring\nInput: 4.5V to 17V     Output: 1V @ 9A & 1.8V @ 9A
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc.  All rights reserved.
.lib LTM4675.sub
.backanno
.end
