* Z:\mnt\spice-netlists\LTM8049_DC2244A.asc
V1 IN 0 12
R1 N002 0 80.6K
R2 OUT1 N003 130K
Rload1 OUT1 0 12
R3 N008 0 80.6K
R4 OUT2 N009 143K
Rload2 0 OUT2 12
C1 OUT1 0 22µ
C2 0 OUT2 47µ
XU1 OUT1 IN N006 MP_01 N004 N003 N009 N004 MP_02 N010 IN MP_03 MP_04 NC_05 IN N008 N007 N005 0 N001 N002 IN N005 0 0 MP_06 0 OUT2 LTM8049
R5 IN N006 200K
R6 IN N010 200K
C3 N001 0 10n
C4 N007 0 10n
C5 IN 0 27µ
.tran 5m startup
* LTM8049 - Dual SEPIC or Inverting ?Module DC/DC Converter\n±12V SEPIC & Inverting Regulator\nInput: 2.8V to 18V       Output: 12V @ 1A & -12V @ 1A,  Fsw = 1MHz
* Note:\n  Smaller values are used for SS capacitors to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
.lib LTM8049.sub
.backanno
.end
