* Z:\mnt\spice-netlists\LTM8055_DC2017A.asc
XU1 NC_01 NC_02 MP_03 N004 MP_04 MP_05 N003 NC_06 IN IN IN IN MP_07 MP_08 MP_09 MP_10 MP_11 MP_12 MP_13 MP_14 MP_15 MP_16 MP_17 MP_18 N001 OUT MP_19 MP_20 MP_21 0 MP_22 N004 NC_23 0 N005 NC_24 N002 LTM8055
R1 N005 0 36.5K
V1 IN 0 12
R2 N001 N002 100K
R3 N002 0 11K
C1 N001 0 22µ
C2 N001 0 68µ
Rload OUT 0 2
R4 OUT N001 0.008
C3 IN 0 4.7µ x2
.tran 1m startup
* LTM8055 - 36Vin, 8.5A Buck-Boost µModule Regulator\nHigh Efficiency Buck-Boost Regulator with Accurate Current Limit & Output Current Monitor\nInput: 5V to 36V       Output: 12V @ 6A with 12V Input, Fsw = 600kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LTM8055.sub
.backanno
.end
