* Z:\mnt\spice-netlists\LTM8064_DC2237A.asc
XU1 OUT MP_01 IN IN N001 MP_02 MP_03 MP_04 NC_05 MP_06 N002 0 N001 N001 NC_07 MP_08 MP_09 MP_10 NC_11 N003 MP_12 0 LTM8064
V1 IN 0 24
R1 N003 0 130K
C1 OUT 0 100µ
C2 OUT 0 330µ
R2 N002 0 5.11K
R3 OUT 0 .833
C3 IN 0 4.7µ x2
.tran 2.5m startup
* LTM8064 - 58Vin, 6A CVCC Step-Down uModule Regulator\nCVCC Source/Sink Step-Down Regulator\nInput: 7.5V to 58V     Output: 5V @ ±6A, Fsw = 325kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
.lib LTM8064.sub
.backanno
.end
