* Z:\mnt\spice-netlists\LTM4633_DC1905A_F16.asc
XU1 N008 N011 OUT1 IN IN OUT3 0 N009 N005 NC_01 0 N006 NC_02 N012 NC_03 N004 N003 N010 MP_04 NC_05 MP_06 N001 NC_07 IN IN OUT2 NC_08 MP_09 MP_10 MP_11 NC_12 MP_13 MP_14 N002 N002 N002 0 N001 MP_15 N007 LTM4633
V1 IN 0 12
C1 0 N001 4.7µ
R1 IN N002 23.2K
R2 N005 0 242K
R3 N006 0 121K
R4 N012 0 19.1K
C4 OUT3 0 470µ
Rload1 OUT1 0 .1
Rload2 OUT2 0 .12
Rload3 OUT3 0 .33
C5 IN 0 150µ V=25
C6 IN 0 22µ V=25
C7 N012 OUT3 220p
C8 OUT3 0 100µ
R5 N004 N001 10K
R6 N003 N001 10K
C9 N006 OUT2 220p
C3 OUT2 0 470µ
C10 OUT2 0 100µ
C11 N005 OUT1 220p
C2 OUT1 0 470µ
C12 OUT1 0 100µ
R7 IN N009 10K
R8 N010 IN 10K
C13 N007 0 0.1n
C14 N008 0 0.1n
C15 N011 0 0.1n
.tran 750u startup
* LTM4633 - Triple 10A Step-Down DC/DC µModule Regulator\nHigh Efficiency, Triple 10A Step-Down µModule Regulator\nInput: 4.5V to 16V     Outputs: 1.0V, 1.2V & 3.3V @ 10A, Fsw = 750kHz
* Notes:\n  A smaller TRACK/SS capacitor is being used to reduce simulation time. Typical value should be 0.1µF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTM4633.sub
.backanno
.end
