* Z:\mnt\spice-netlists\LTM8057_DC1987A_TA01.asc
XU1 0 OUT 0 N002 IN N001 IN NC_01 LTM8057
V1 IN 0 24
C1 N001 0 4.7µ
R1 N002 0 6.98K
C2 OUT 0 22µ
Rload OUT 0 16.7
C3 IN 0 2.2µ
.tran 2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
* LTM8057 - 3.1Vin to 31Vin Isolated µModule DC/DC Converter\n2kV AC Isolated Low Noise µModule Regulator\nInput: 3.1V to 29V    Output: 5V @ 300mA
.lib LTM8057.sub
.backanno
.end
