* Z:\mnt\spice-netlists\LTM8067_DC2357A_TA01.asc
V1 IN 0 24
C2 OUT 0 22µ
R2 N001 0 8.06K
Rload OUT 0 12
XU1 IN 0 IN 0 OUT MP_01 N001 LTM8067
C1 IN 0 2.2µ
.tran 10m startup
* LTM8067 - 2.8Vin to 40Vin Isolated µModule DC/DC Converter\n2kVAC Isolated µModule Regulator\nInput: 4.5V to 40V       Output: 5V @ 500mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
.lib LTM8067.sub
.backanno
.end
