* Z:\mnt\spice-netlists\LTM4624_DC1889A_TA01A.asc
XU1 NC_01 N001 N001 N002 N003 NC_02 IN NC_03 OUT 0 0 IN IN LTM4624
V1 IN 0 12
C1 N003 0 .005µ
R1 N002 0 40.2K
C2 OUT 0 100µ
Rload OUT 0 .375
C3 IN 0 10µ
C4 IN 0 22µ x2
C5 OUT N002 100p
C6 OUT 0 47µ
C7 OUT 0 22µ
.tran 2m startup
* LTM4624 - 14Vin, 4A Step-Down DC/DC µModule Regulator \n4A Buck µModule Regulator\nInput: 4V to 14V     Output: 1.5V @ 4A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTM4624.sub
.backanno
.end
